US05512563
To a suspension of 11.67 g of 2-thiobenzoic acid in a mixture of 32 ml of ethanol and 11 ml of water is added portionwise 12.72 g of solid sodium bicarbonate. After the complete addition, the mixture is stirred for 15 minutes and 10.0 g of 2-chloro-3-nitropyridine added portionwise. The mixture is refluxed for 2 hours, cooled and then concentrated in vacuo. The residual aqueous solution is diluted with 15 ml of water, acidified with 2N HCl and extracted twice with 250 ml of ethyl acetate. The extract is concentrated under vacuum to give a yellow solid residue. The residue is dissolved in a minimum of ethyl acetate by heating on a steam bath. The solution is cooled overnight and filtered. (2.5 g of starting material). The filtrate is concentrated, chilled and filtered to give 12.5 g of 2-(3-nitro-2-pyridinylthio)benzoic acid as a yellow solid. The preceding compound (5.0 g) and 0.75 g of Pd/C in 60 ml of ethanol is shaken in a Parr hydrogenator under 45 psi of hydrogen for 18 hours. The mixture is filtered through diatomaceous earth and the filter cake washed with 200 ml of dichloromethane. The combined filtrate is evaporated in vacuo to give a solid. The solid is triturated with ethanol and filtered to give 3.6 g of yellow solid. This solid (3.0 g) is again hydrogenated with Pd/c (0.50 g) in 50 ml of ethanol and 30 ml of acetic acid under 45 psi of hydrogen for 18 hours. The mixture is filtered through diatomaceous earth and the filter cake washed with methanol. The combined filtrate is concentrated in vacuo to give 1.6 g of solid. This solid in 25 ml of N,N-dimethylformamide is again reduced with 0.80 g of Pd/C under 45 psi of hydrogen to give 0.57 g of solid. Recrystallization from ethyl acetate gives 0.28 g of 2-(3-amino-2-pyridinylthio)benzoic acid. The preceding compound (0.20 g) is heated in 2-hydroxypyridine at 170° C. to give 5,6-dihydropyrido 2,3-b! 1,4!benzothiazepine as a yellow solid. The preceding compound is reacted with borane-dimethylsulfide as described for Reference Example 17 to give the product as a solid.

reactant | 2-thiobenzoic acid | 11.67 g | C1=CC=C(C(=C1)C(=O)O)S | C7H6O2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 2-chloro-3-nitropyridine | 10.0 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
solvent | ethanol | 32 ml | C(C)O | C2H6O
solvent | water | 11 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-nitro-2-pyridinylthio)benzoic acid | 12.5 g | [N+](=O)([O-])C=1C(=NC=CC1)SC1=C(C(=O)O)C=CC=C1 | C12H8N2O4S
